US04605655
5-Bromo-2-(1-piperazinyl)pyrimidine (IIc)
This example serves to illustrate procedure B of Scheme 2. To an ice-cooled solution of 1-(2-pyrimidinyl)piperazine (16.4 g, 0.1 mole) in 1N HCl (100 mL) was added dropwise bromine (15.98 g, 0.1 mole). After stirring at 0° for 0.5 hr, the mixture was heated to 100° until dissipation of the red color had occurred. The mixture is filtered, cooled, made alkaline with 50% NaOH and extracted with ether. The dried extract (MgSO4) was concentrated in vacuo to provide 14.5 g (62%) of product, m.p. 73°-75°.

reactant | 1-(2-pyrimidinyl)piperazine | 0.1 mole, 16.4 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | bromine | 0.1 mole, 15.98 g | BrBr | Br2
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 5-Bromo-2-(1-piperazinyl)pyrimidine | 14.5 g, 62% | BrC=1C=NC(=NC1)N1CCNCC1 | C8H11BrN4
